US04092311
A 5.0 g. portion of 6-(p-cyanophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone (prepared as described in Example 44 of U.S. Pat. No. 3,824,271) is slurried in 25 ml. of acetic acid. A solution of 1.4 ml. of bromine in 25 ml. of acetic acid is added and the reaction mixture is heated on a steam bath for 30 minutes. A 400 ml. portion of ice water is added and the resulting solid is collected by filtration. This product is heated in 200 ml. of a mixture of ethyl acetate and methanol at the boiling point and filtered free of insolubles. The filtrate is concentrated to about 75 ml., cooled in ice and the resulting white solid collected and dried, yielding 6-(p-cyanophenyl)-5-methyl-3(2H)-pyridazinone.

reactant | 6-(p-cyanophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(#N)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C12H11N3O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(p-cyanophenyl)-5-methyl-3(2H)-pyridazinone | C(#N)C1=CC=C(C=C1)C=1C(=CC(NN1)=O)C | C12H9N3O
